US05084459
A stainless steel autoclave was charged with 14.99 g of 2-chloro-5-(chloromethyl)pyridine, 63.01 g of 25% aqueous ammonia and 60 ml of acetonitrile and the mixture was stirred on an oil bath at 80° C. for 2 hours. The reaction mixture was diluted with 12.3 g of 30% aqueous sodium hydroxide solution and concentrated. The residue was diluted with 200 ml of ethanol, dried over anhydrous magnesium sulfate and filtered to remove the insolubles. Finally, the filtrate was concentrated and purified by column chromatography (eluent: dichloromethane-methanol (4:1)) to give 7.66 g of 5-(aminomethyl)-2-chloropyridine as a yellow solid.

reactant | 2-chloro-5-(chloromethyl)pyridine | 14.99 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | ammonia | 63.01 g | N | H3N
reactant | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | sodium hydroxide | 12.3 g | [OH-].[Na+]
product | 5-(aminomethyl)-2-chloropyridine | 7.66 g | NCC=1C=CC(=NC1)Cl | C6H7ClN2
